US05068427
Chem. Abstracts 56:7116f, abstracting Sokolsku et al., Izvest. Akad Nauk S.S.S.R., Otdel Khem Nauk 1606 (1968), describes the reaction of CH3SO2F with (C2H5)2NH after one day to give 96.5% CH3SO2N(C2H5)2.

reactant | CH3SO2F | CS(=O)(=O)F | CH3FO2S
reactant | (C2H5)2NH | N(CC)CC | C4H11N
product | CH3SO2N(C2H5)2 | 96.5% | CS(=O)(=O)N(CC)CC | C5H13NO2S
